US06610518B2
Preparation of N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-5-isoxazolyl)-4-(2-hydroxy-1,1-dimethylethyl)benzenesulfonamide
Amycolata autotrophica ATCC35203 maintained on a quarter strength ATCC172 agar slope was inoculated as a loopful of spores into a 300 ml Erlenmeyer flasks each containing 50 ml of of MY inoculum medium. This was allowed to incubate for 2 days at 28° C., 200 rpm on an Infors Multitron™ Shaker with 1″ throw. Two mls of this inoculum was then transferred to each of twenty 300 ml Erlenmeyer flask containing 50 ml of MY production medium and incubated under the same conditions for a further 24 hours. At this point 5 mg of N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-5-isoxazolyl)-4-(tert-butyl)benzenesulfonamide (Preparation 20) dissolved in 0.5 ml of methanol was added to each of the flasks and the fermentation allowed to continue under the same conditions for a further 144 hours. Each flask was then extracted with 200 mls of ethyl acetate and the combined ethyl acetate solubles concentrated to dryness to give a gum solid.

reactant | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-5-isoxazolyl)-4-(tert-butyl)benzenesulfonamide | 5 mg | O1COC2=C1C=CC(=C2)C=2C(=NOC2NS(=O)(=O)C2=CC=C(C=C2)C(C)(C)C)OCCOC2=NC=C(C=N2)Br | C26H25BrN4O7S
reactant | methanol | 0.5 ml | CO | CH4O
product | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-5-isoxazolyl)-4-(2-hydroxy-1,1-dimethylethyl)benzenesulfonamide | O1COC2=C1C=CC(=C2)C=2C(=NOC2NS(=O)(=O)C2=CC=C(C=C2)C(CO)(C)C)OCCOC2=NC=C(C=N2)Br | C26H25BrN4O8S
